US07799762B2
g. (2R)-5-Amino-2-[(R)-3-benzyloxytetradecanoylamino]pentan-1-ol
In a three-neck flask, the catalyst (150 mg of 20% palladium/carbon) was added to the solution of (2R)-5-(benzyloxycarbonylamino)-2-[(R)-3-benzyloxytetradecanoylamino]pentan-1-ol (3.0 g; 5.27 mmol) in a mixture of triethylamine Et3N (6 ml)/HPLC-grade ethanol EtOH (300 ml). Air was discharged under vacuum then the flask was loaded with hydrogen. The reaction mixture was hydrogenated at room temperature for 2 hours then the catalyst was filtered off and the filtrate was concentrated to provide the desired product as a homogenous white solid. Rf=0.2, 5/10/0.5 CH2Cl2-MeOH-Et3N, m.p.=47-48° C.

reactant | (2R)-5-(benzyloxycarbonylamino)-2-[(R)-3-benzyloxytetradecanoylamino]pentan-1-ol | 5.27 mmol, 3.0 g | C(C1=CC=CC=C1)OC(=O)NCCC[C@H](CO)NC(C[C@@H](CCCCCCCCCCC)OCC1=CC=CC=C1)=O | C34H52N2O5
reactant | ethanol EtOH | 6 ml | C(C)O.CCO | 2C2H6O
reactant | hydrogen | [H][H] | H2
solvent | triethylamine Et3N | C(C)N(CC)CC.CCN(CC)CC | 2C6H15N
catalyst | palladium/carbon | 150 mg | [Pd] | Pd
product | (2R)-5-Amino-2-[(R)-3-benzyloxytetradecanoylamino]pentan-1-ol | NCCC[C@H](CO)NC(C[C@@H](CCCCCCCCCCC)OCC1=CC=CC=C1)=O | C26H46N2O3
